US05273999
Preparation of 5-[[2-(2-Ethoxy-2-oxoethyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic Acid Ethyl Ester
A mixture of 1.07 g (2.69 mmol) of 5-[[2-(2-ethoxy-2-oxoethyl)phenyl]carbonyl]-2-methoxybenzenepropanoic acid ethyl ester and 3.63 g (31.41 mmol) of pyridine hydrochloride was heated at 220°-260° C. for 40 min and then cooled to room temperature. Aqueous 3N sulfuric acid (40 mL) was added, and the mixture was worked-up with ethyl acetate in the usual manner. The crude product was dissolved in 150 mL of ethanol. To this solution was added 3 mL of thionyl chloride and the resulting solution was heated at reflux for 16 hr. The solvent was removed in vacuo and the crude product was purified by flash chromatography on 120 g of silica gel, eluting with 3:1 hexane-ethyl acetate. This afforded 0.469 g (45.4%) of the title compound as a pale yellow oil.

reactant | 5-[[2-(2-ethoxy-2-oxoethyl)phenyl]carbonyl]-2-methoxybenzenepropanoic acid ethyl ester | 2.69 mmol, 1.07 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=C(C=CC=C1)CC(=O)OCC)OC)=O | C23H26O6
reactant | pyridine hydrochloride | 31.41 mmol, 3.63 g | Cl.N1=CC=CC=C1
reactant | sulfuric acid | 3N, 40 mL | S(O)(O)(=O)=O | H2O4S
reactant | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[[2-(2-Ethoxy-2-oxoethyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic Acid Ethyl Ester | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=C(C=CC=C1)CC(=O)OCC)O)=O | C22H24O6
